US08664220B2
Step 1: 2-Bromo-6-phenethyloxy-pyridine
Prepared according to the procedure described in Example 139, Step 1, using 2,6-dibromo-pyridine and 2-phenyl-ethanol.

reactant | 2,6-dibromo-pyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 2-phenyl-ethanol | C1(=CC=CC=C1)CCO | C8H10O
product | 2-Bromo-6-phenethyloxy-pyridine | BrC1=NC(=CC=C1)OCCC1=CC=CC=C1 | C13H12BrNO
